US08466290B2
Synthesis of 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide
Oxalyl chloride (129 μL, 1.50 mmol) and methylene chloride (3 mL) were added to a methylene chloride (2 mL) solution of 2-phenyl-6-trifluoromethoxy-4-quinolinecarboxylic acid (100 mg, 0.30 mmol) described in Reference Example 16, and the mixture was stirred at room temperature for 1 hour. After that, oxalyl chloride (129 μL, 1.50 mmol) was added, and the mixture was further stirred for 2 hours. The reaction solution was concentrated, and the residue was dissolved in anhydrous acetonitrile (1 mL). To the solution, potassium thiocyanate (146 mg, 1.50 mmol) was added, and the mixture was stirred at room temperature for 1 hour. To the reaction solution, commercially available 2-thiophenecarbohydrazide (64 mg, 0.45 mmol) was added, and the mixture was stirred overnight at room temperature. To the reaction solution, methanol was added, and the mixture was concentrated. To the residue, a saturated aqueous solution of sodium chloride was added, and the deposited crystal was collected by filtration, washed with water, dried, and then purified by silica gel column chromatography to obtain the title compound (71 mg, 0.14 mmol).

reactant | Oxalyl chloride | 1.50 mmol, 129 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenyl-6-trifluoromethoxy-4-quinolinecarboxylic acid | 0.30 mmol, 100 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)O)OC(F)(F)F | C17H10F3NO3
reactant | oxalyl chloride | 1.50 mmol, 129 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | potassium thiocyanate | 1.50 mmol, 146 mg | [S-]C#N.[K+]
reactant | 2-thiophenecarbohydrazide | 0.45 mmol, 64 mg | S1C(=CC=C1)C(=O)NN | C5H6N2OS
solvent | methanol | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide | 0.14 mmol, 71 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)NC(NNC(=O)C=1SC=CC1)=S)OC(F)(F)F | C23H15F3N4O3S2
